US09382188B2
step 3) 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-N′-(2,2,2-trifluoroacetyl)-[1,1′-biphenyl]-2-carbohydrazide
Trifluoroacetic anhydride (1.57 mL) was added to a solution of 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carbohydrazide (1.47 g) and triethylamine (1.55 mL) in THF (37 mL) at room temperature, and the mixture was stirred at room temperature for 0.5 hr. To the reaction mixture was added aqueous sodium hydrogen carbonate solution, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, and dried over anhydrous magnesium sulfate. The solvent was evaporated under reduced pressure, and the residue was purified by silica gel column chromatography (ethyl acetate/hexane) to give the title compound (1.70 g) as a white solid.

reactant | Trifluoroacetic anhydride | 1.57 mL | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-[1,1′-biphenyl]-2-carbohydrazide | 1.47 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)NN | C22H21FN2O4
reactant | triethylamine | 1.55 mL | C(C)N(CC)CC | C6H15N
reactant | sodium hydrogen carbonate | C(O)([O-])=O.[Na+]
solvent | THF | 37 mL | C1CCOC1 | C4H8O
product | 2′-fluoro-5′-methoxy-4-((4-methoxybenzyl)oxy)-N′-(2,2,2-trifluoroacetyl)-[1,1′-biphenyl]-2-carbohydrazide | 1.70 g | FC1=C(C=C(C=C1)OC)C=1C(=CC(=CC1)OCC1=CC=C(C=C1)OC)C(=O)NNC(C(F)(F)F)=O | C24H20F4N2O5
